US07199239B2
Intermediate 80: Ethyl (2-methyl-4-{[{5-methyl-6-[4-(trifluoromethyl)phenyl]pyrimidin-4-yl}(propyl)amino]methyl}phenoxy)acetate
A mixture of ethyl {2-methyl-4-[(propylamino)methyl]phenoxy}acetate (0.279 g, 1.05 mmol), N,N-diisopropylethylamine (0.24 mL, 1.4 mmol) and 4-chloro-5-methyl-6-[4-(trifluoromethyl)phenyl]pyrimidine (0.191 g, 0.7 mmol) were heated at 100° C. in a sealed reactivial for 18 h. After this time the reactivial was allowed to cool to room temperature and the residue dissolved in CH2Cl2 (50 mL) and washed with water (20 mL). The organic extract was separated by hydrophobic frit and evaporated. Purification by Biotage™ chromatography (Si, 40 g) eluting 9:1 cyclohexane:EtOAc afforded the title compound as a pale yellow oil (159 mg).

reactant | ethyl {2-methyl-4-[(propylamino)methyl]phenoxy}acetate | 1.05 mmol, 0.279 g | CC1=C(OCC(=O)OCC)C=CC(=C1)CNCCC | C15H23NO3
reactant | N,N-diisopropylethylamine | 1.4 mmol, 0.24 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-chloro-5-methyl-6-[4-(trifluoromethyl)phenyl]pyrimidine | 0.7 mmol, 0.191 g | ClC1=NC=NC(=C1C)C1=CC=C(C=C1)C(F)(F)F | C12H8ClF3N2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | Ethyl (2-methyl-4-{[{5-methyl-6-[4-(trifluoromethyl)phenyl]pyrimidin-4-yl}(propyl)amino]methyl}phenoxy)acetate | 159 mg | CC1=C(OCC(=O)OCC)C=CC(=C1)CN(CCC)C1=NC=NC(=C1C)C1=CC=C(C=C1)C(F)(F)F | C27H30F3N3O3
